datasets/RMG-dataset.csv
rxn,Ea
[C:0]([O:1])([H:2])([H:3])[H:4].[C:5]([O:6][H:9])([H:7])[H:8]>>[C:0]([O:1][H:9])([H:2])([H:3])[H:4].[C:5](=[O:6])([H:7])[H:8],0.0
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[S:12]=[C:13]([C:14]([S:15][H:18])[H:17])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:14]([C:13](=[S:12])[H:16])([S:15][H:18])[H:17],137.403
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23](=[C:24][C:25]([H:28])([H:29])[H:30])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[C:24](=[C:23]([H:26])[H:27])[C:25]([H:28])([H:29])[H:30])[H:13])([H:11])[H:12],11.4223
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20](=[C:21]([H:23])[H:24])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:14])[C:20](=[C:21]([H:23])[H:24])[H:22])[H:13])[H:12])([H:10])[H:11],6.6944
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27][H:28]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:17][O:27][H:28],-7.380576
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17],-2.9288
[C:0]([C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([H:15])[H:16])([O:5][C:6]([C:7]([H:20])([H:21])[H:22])=[O:8])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([H:15])[H:16])[H:14])[H:13])([H:9])([H:10])[H:11].[O:5]=[C:6]([C:7]([H:20])([H:21])[H:22])[O:8][H:12],184.5144
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])([C:12]([O:13][H:22])([H:20])[H:21])[H:16])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:9]([C:10]([C:11]([H:17])([H:18])[H:19])([C:12]([O:13][H:22])([H:20])[H:21])[H:16])([H:14])[H:15],17.27992
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11]([C:12]([S:13][H:20])([C:14](=[S:15])[H:21])[H:19])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:19])[H:6].[C:11]([C:12]([S:13][H:20])[C:14](=[S:15])[H:21])([H:16])([H:17])[H:18],10.46
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24]([C:25]([C:26]([H:36])([H:37])[H:38])[c:27]1[c:28]([H:39])[c:29]([H:40])[c:30]([H:41])[c:31]([H:42])[c:32]1[H:43])([H:33])([H:34])[H:35]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:25]([C:24]([H:33])([H:34])[H:35])([C:26]([H:36])([H:37])[H:38])[c:27]1[c:28]([H:39])[c:29]([H:40])[c:30]([H:41])[c:31]([H:42])[c:32]1[H:43])[H:12],38.1581
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27]([C:28]([C:29]([H:39])([H:40])[H:41])[c:30]1[c:31]([H:42])[c:32]([H:43])[c:33]([H:44])[c:34]([H:45])[c:35]1[H:46])([H:36])([H:37])[H:38]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])([C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:28]([C:27]([H:36])([H:37])[H:38])([C:29]([H:39])([H:40])[H:41])[c:30]1[c:31]([H:42])[c:32]([H:43])[c:33]([H:44])[c:34]([H:45])[c:35]1[H:46])[H:15])([H:13])[H:14],39.3296
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:15])[H:16])([H:13])[H:14])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:9])([H:15])[H:16])([H:13])[H:14])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:12])([H:10])[H:11],83.68
[S:0]=[C:1]([S:2][H:4])[H:3].[S:5]([C:6]([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])[H:14])[H:13]>>[H:3][C:6]([S:5][H:13])([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])[H:14].[S:0]=[C:1][S:2][H:4],137.946
[N:0]([C:1]([C:2]([C:3]([O:4][H:14])([C:5](=[O:6])[H:15])[H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:3]([O:4][H:14])(=[C:5]([O:6][H:9])[H:15])[H:13].[N:0]([C:1](=[C:2]([H:11])[H:12])[H:10])([H:7])[H:8],238.61
